US05925632
(c) rac-(1-Isobutyl-2-oxo-pyrrolidin-3-yl)-triphenyl-phosphonium bromide
2.74 g (12.4 mmol) rac-3-Bromo-1-isobutyl-pyrrolidine-2-one were dissolved in 12 ml THF, and 3.43 g (13.1 mmol) triphenylphosphine were added. The mixture was then refluxed for 3 days under argon atmosphere. After cooling to room temperature, the suspension was filtered with suction, the white crystals were washed with ice-cold THF and then dried under high vacuum.

reactant | rac-3-Bromo-1-isobutyl-pyrrolidine-2-one | 12.4 mmol, 2.74 g | BrC1C(N(CC1)CC(C)C)=O | C8H14BrNO
reactant | triphenylphosphine | 13.1 mmol, 3.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | rac-(1-Isobutyl-2-oxo-pyrrolidin-3-yl)-triphenyl-phosphonium bromide | [Br-].C(C(C)C)N1C(C(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C26H29NOP.BrH/c1-21(2)20-27-19-18-25(26(27)28)29(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;/h3-17,21,25H,18-20H2,1-2H3;1H/q+1;/p-1
